US07868019B2
In 20 mL of tetrahydrofuran was dissolved 5.04 g of 2,3-dihydro-4-quinolone at 25° C., then, to the solution were added 5.6 mL of benzyloxycarbonyl chloride, 15 mL of water and 4.73 g of potassium carbonate under ice-cooling, and said mixture was stirred at 25° C. for 24 hours. Ethyl acetate was added to the reaction mixture, and the organic layer was separated, dried over anhydrous magnesium sulfate, and then, filtered. The filtrate was concentrated, and the residue was dissolved in 35 mL of isopropyl alcohol under heating. Said solution was gradually cooled, and the precipitated crystals were collected by filtration under ice-cooling. The resulting crystals were washed with 25 mL of cold isopropyl alcohol, and dried at 50° C. for 16 hours to obtain 8.98 g (Yield: 93%) of 1-benzyloxycarbonyl-2,3-dihydro-4-quinolone.

reactant | 2,3-dihydro-4-quinolone | 5.04 g | N1CCC(C2=CC=CC=C12)=O | C9H9NO
reactant | benzyloxycarbonyl chloride | 5.6 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | water | 15 mL | O | H2O
reactant | potassium carbonate | 4.73 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyloxycarbonyl-2,3-dihydro-4-quinolone | 8.98 g, Yield: 93% | C(C1=CC=CC=C1)OC(=O)N1CCC(C2=CC=CC=C12)=O | C17H15NO3
